US07384967B2
Methyl 3-fluoro-2-(2-fluoro-6-methoxyphenoxy)benzoate (0.88 g, 60%) was prepared from methyl 2,3-difluorobenzoate (0.86 g, 5 mmol) and 2-fluoro-6-methoxyphenol (0.78 g, 5.5 mmol) as described in procedure A. Hydrolysis of this ester with LiOH in aqueous methanol furnished 2-(2-methoxy-6-fluorophenoxy)-3-fluorobenzoic acid (0.86 g, 90%). To a solution of 3-fluoro-2-(2-fluoro-6-methoxyphenoxy)benzoic acid (0.56 g, 2.0 mmol) in 1,2-dichloroethane (10 ml) was added oxalyl chloride (0.18 ml, 2.2 mmol). The solution was stirred at room temperature for 45 min. To this solution was added NaN3 (390 mg, 6 mmol) and the mixture was heated to reflux for 3 h. 2-Aminothiazole (200 mg, 2 mmol) was then added to this mixture and was further refluxed for 3 h. The mixture was concentrated and the residue was purified by column chromatography (silica, CH2Cl2 then 10% ethyl acetate in CH2Cl2) to afford 1-[3-fluoro-2-(2-fluoro-6-methoxyphenoxy)phenyl]-3-(thiazol-2-yl)urea in (414 mg, 55%).

reactant | 3-fluoro-2-(2-fluoro-6-methoxyphenoxy)benzoic acid | 2.0 mmol, 0.56 g | FC=1C(=C(C(=O)O)C=CC1)OC1=C(C=CC=C1OC)F | C14H10F2O4
reactant | oxalyl chloride | 2.2 mmol, 0.18 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NaN3 | 6 mmol, 390 mg | [N-]=[N+]=[N-].[Na+]
reactant | 2-Aminothiazole | 2 mmol, 200 mg | NC=1SC=CN1 | C3H4N2S
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-[3-fluoro-2-(2-fluoro-6-methoxyphenoxy)phenyl]-3-(thiazol-2-yl)urea | FC=1C(=C(C=CC1)NC(=O)NC=1SC=CN1)OC1=C(C=CC=C1OC)F | C17H13F2N3O3S
